US05550138
To a mixture of 1-(4,6-dimethyl-2-pyridyl)-3-(4-methylphenyl)sulfonyl-2-thiourea (2.90 g) and chloroform (50 ml), sulfuryl chloride (1.28 g) was added. After being stirred at room temperature for 15 minutes, the mixture was refiuxed with heating for 30 minutes. The reaction mixture was concentrated, and the resulting crystal was collected by filtration and suspended in water. After pH adjustment to 7 by the addition of saturated aqueous sodium bicarbonate, the suspension was stirred at room temperature for 1 hour. The separating crystal was collected by filtration and recrystallized from chloroform-methanol to yield 5, 7-dimethyl-2-(4-methylphenyl) sulfonylimino-2H-[1,2,4]thiadiazolo[2,3- a]pyridine (2.40 g, yield 83%) as a colorless needle.

reactant | 1-(4,6-dimethyl-2-pyridyl)-3-(4-methylphenyl)sulfonyl-2-thiourea | 2.90 g | CC1=CC(=NC(=C1)C)NC(=S)NS(=O)(=O)C1=CC=C(C=C1)C | C15H17N3O2S2
reactant | sulfuryl chloride | 1.28 g | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 5, 7-dimethyl-2-(4-methylphenyl) sulfonylimino-2H-[1,2,4]thiadiazolo[2,3- a]pyridine | 2.40 g, yield 83% | CC1=CC(=CC=2N1SC(N2)=NS(=O)(=O)C2=CC=C(C=C2)C)C | C15H15N3O2S2
